US04133827
10.0 gm. (0.05 mole) of copper acetate was dissolved hot in 150 ml of H2O and added to a solution of 19.1 gm. (0.1 mole) of γ-chloroacetoacetic acid diethyl amide in 150 ml of benzene. After brief stirring the green benzene solution was separated and dried over MgSO4. Then 6.2 gm. (0.1 mole) of ClCN were introduced into the benzene solution -- the temperature was kept at 20° to 30° C. The precipitated CuCl2 was filtered off and the benzene solution was precipitated. 14.2 gm of α-cyano-γ-chloroacetoacetic acid dimethylamide was obtained, which corresponds to 65.6 percent of theoretical.

reactant | γ-chloroacetoacetic acid diethyl amide | 0.1 mole | C(C)N(C(CC(=O)CCl)=O)CC | C8H14ClNO2
reactant | ClCN | 0.1 mole | ClC#N | CClN
solvent | H2O | 150 ml | O | H2O
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
catalyst | copper acetate | 0.05 mole | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | α-cyano-γ-chloroacetoacetic acid dimethylamide | 14.2 gm | CN(C(C(C(=O)CCl)C#N)=O)C | C7H9ClN2O2
